US04418065
1-(4-Chlorophenyl)-1-(3-pyridyl)-2-propen-1-ol
A solution of vinylbromide (38.4 g, 359 mmol) in 100 ml tetrahydrofuran was added to a mixture of magnesium (9.15 g, 377 mmol) in 40 ml tetrahydrofuran under a nitrogen atmosphere at 50° to 60° C. After reflux for 1 h 3-(4-chlorobenzoyl)pyridine (62.4 g, 287 mmol) in 250 ml tetrahydrofuran was added at 10° C. After stirring for 1 h a solution of 20 g ammonium chloride in 100 ml water was added and the mixture filtered. The organic phase was evaporated and the residue taken up in ether and treated with charcoal. After filtration the solvent was evaporated to give 62.6 g (89%) of a brownish oil which solidified. Recrystallisation from toluene gave a product having m.p. 82.5°-84° C.

reactant | vinylbromide | 359 mmol, 38.4 g | C(=C)Br | C2H3Br
reactant | magnesium | 377 mmol, 9.15 g | [Mg] | Mg
reactant | 3-(4-chlorobenzoyl)pyridine | 287 mmol, 62.4 g | ClC1=CC=C(C(=O)C=2C=NC=CC2)C=C1 | C12H8ClNO
reactant | ammonium chloride | 20 g | [Cl-].[NH4+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
product | 1-(4-Chlorophenyl)-1-(3-pyridyl)-2-propen-1-ol | 62.6 g, 89% | ClC1=CC=C(C=C1)C(C=C)(O)C=1C=NC=CC1 | C14H12ClNO
